US07494990B2
A1. 4-(3,4-dimethoxyphenyl)-2,2-dimethyl-4-oxo-butyric acid
Under an atmosphere of dry nitrogen a grignard solution, prepared from 43.4 g 3,4-dimethoxybromobenzene and 6.1 g magnesium in 200 ml of tetrahydrofuran, is added dropwise to a solution of 20.5 g 3,3-dimethyl-dihydro-furan-2,5-dione in 200 ml of tetrahydrofuran cooled in an ice-bath. The reaction mixture is stirred for an additional hour at RT. 100 ml of a 20% ammonium chloride solution is added and the water layer is extracted twice with 75 ml of ethyl acetate. The combined organic layers are washed twice with 100 ml of half saturated brine and extracted with 3×100 ml 1 M sodium hydroxide solution. The aqueous layers are washed with 75 ml of ethyl acetate, acidified with concentrated hydrochloric acid and extracted 3 times with 100 ml of dichloromethane. The organic layers are dried over magnesium sulfate, filtered and concentrated in vacuo. The oily residue is crystallized from ethyl acetate/petroleum ether (60-80° C.). M. p. 114-116° C.

reactant | 3,4-dimethoxybromobenzene | 43.4 g | COC=1C=C(C=CC1OC)Br | C8H9BrO2
reactant | magnesium | 6.1 g | [Mg] | Mg
reactant | 3,3-dimethyl-dihydro-furan-2,5-dione | 20.5 g | CC1(C(OC(C1)=O)=O)C | C6H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-(3,4-dimethoxyphenyl)-2,2-dimethyl-4-oxo-butyric acid | COC=1C=C(C=CC1OC)C(CC(C(=O)O)(C)C)=O | C14H18O5
